US04083983
N-Cyano-N'-methyl-N"-[2-((4-methoxy-2-pyridyl)methylthio)ethyl]guanidine.
Methylamine in ethanol (33%, 20 cc) was added to a stirred solution of N-cyano-N'-[2-((4-methoxy-2-pyridyl)methylthio)ethyl]-S-methylisothiourea (3.56 g) in ethanol (25 cc) at 35°, and the mixture was left to stand overnight. Nitrogen was bubbled through the solution and the crystals were filtered off to give the title product, (2.74 g) m.p. 121°-122°.

reactant | Methylamine | CN | CH5N
reactant | N-cyano-N'-[2-((4-methoxy-2-pyridyl)methylthio)ethyl]-S-methylisothiourea | 3.56 g | C(#N)NC(SC)=NCCSCC1=NC=CC(=C1)OC | C12H16N4OS2
solvent | ethanol | 20 cc | C(C)O | C2H6O
solvent | ethanol | 25 cc | C(C)O | C2H6O
product | N-Cyano-N'-methyl-N"-[2-((4-methoxy-2-pyridyl)methylthio)ethyl]guanidine | 2.74 g | C(#N)NC(=NCCSCC1=NC=CC(=C1)OC)NC | C12H17N5OS
